US05026856
80 mg of 7-(5-acetamidomethyl-2-isoindolinyl)-1- cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester was dissolved in a mixture of 10 ml of 10% hydrochloric acid and 10 ml of ethanol. The mixture was heated under reflux for 24 hours. The precipitates deposited were collected by filtration and washed with water and ethanol in this order to obtain 68 mg of 7-(5-aminomethyl-2-isoindolinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid hydrochloride salt.

reactant | 7-(5-acetamidomethyl-2-isoindolinyl)-1- cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester | 80 mg | C(C)OC(=O)C1=CN(C2=NC(=C(C=C2C1=O)F)N1CC2=CC=C(C=C2C1)CNC(C)=O)C1CC1 | C25H25FN4O4
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 7-(5-aminomethyl-2-isoindolinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid hydrochloride salt | 68 mg | Cl.NCC=1C=C2CN(CC2=CC1)C1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)O)=O)F | InChI=1S/C21H19FN4O3.ClH/c22-17-6-15-18(27)16(21(28)29)10-26(14-3-4-14)19(15)24-20(17)25-8-12-2-1-11(7-23)5-13(12)9-25;/h1-2,5-6,10,14H,3-4,7-9,23H2,(H,28,29);1H
